Diode Circuit Netlist
********************************************************************************
* Tier No.:  1
* Directory/Circuit Name: DIODE/DIODE.cir
* Description:  Simple diode circuit to test the validity of the diode model.
* Input:  VIN
* Output: V(3), I(VMON)
* Analysis:
*       A diode is forward biased with a 5V input source, VIN.   With a 100fA saturation
*       current, Is,  the diode current, I(VMON) or Id,  and voltage, Vd,  are determined by the
*       following equations:
*               (1) Id=Is[exp(Vd/Vt) - 1]
*               (2) Vin=Id*R + Vd = Is[EXP(Vd/Vt)-1]*R + Vd
*               where,
*               Vt=25.86mV, R=2K, Is=100fA, Vin=5V
*
*       The diode voltage can be calculated by finding the value of Vd that makes equation (2)
*       true.  The diode current can be found by solving (1)  after Vd is found.
*       Therefore,
*               Vd=0.6158V  and Id=2.19mA
*******************************************************************************
* NOTE:  The simulation in xyce results are:
*	 Vd = .616V and Id=2.19mA
*        This difference is currently being addressed (01/01)
************************************************************************* 
* Note, ERK 10/22/2009.  I have modified this circuit to also certify 
* bug 1727 (charleston).  That bug was about extra cout-output that 
* happened even when using non-verbose builds of Xyce.  However, it 
* only happened for transient, trapezoid runs, with erroroption=1.
************************************************************************* 
VIN 1 0 DC 5V
R1 1 2 2K
D1 3 0 DMOD
VMON 2 3 0
.options timeint method=7 erroption=1 delmax=2e-4
.MODEL DMOD D (IS=100FA)
.tran 0 5ms
.PRINT tran FORMAT=PROBE I(VMON) V(3)
*
.END
