dup-toplevel.cir
* this circuit demonstrates a parser error, in which 2 sources of the same
* name are specified, and not trapped.

V1 22 0 4
V1 1 0 5

R1 1 22 1
R2 22 0 1

.dc V1 7 7 1
.print dc V(1) V(22)


