* gnetlist -g spice-sdb CommonEmitterI.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
.print TRAN  V(1) V(Ve) 
.options restart job=emitter initial_interval=2.0e-5
.tran 0 5e-5

R5 0 OUT 1MEG  
V1 1 0 pulse 0 1 0 1e-6 1e-6 5e-6 1e-5 
V2 Vcc 0 12
C2 Vc OUT 10u  
R4 0 Ve 270  
R3 Vc Vcc 1.5k  
Q1 Vc Vb Ve 2N2222 
.MODEL 2N2222 NPN (Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=255.9 Ne=1.307 Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092 Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p Mjc=.3416 Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75 Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3 Rb=10)
R2 0 Vb 6.8k  
R1 Vb Vcc 39k  
C1 1 Vb 10u  
.end

